US06689806B1
5-Chloro-2-oxindole (167 mg, 1 mmol) was condensed with 3-bromo-5-tert-butyl-4-hydroxybenzaldehyde (308.5 mg, 1.2 mmol) using method B to give 329 mg (81%) of 3-(3-bromo-5-tert-butyl-4-hydroxybenzylidene)-5-chloro-1,3-dihydroindol-2-one as a mixture of isomers.

reactant | 5-Chloro-2-oxindole | 1 mmol, 167 mg | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | 3-bromo-5-tert-butyl-4-hydroxybenzaldehyde | 1.2 mmol, 308.5 mg | BrC=1C=C(C=O)C=C(C1O)C(C)(C)C | C11H13BrO2
product | 3-(3-bromo-5-tert-butyl-4-hydroxybenzylidene)-5-chloro-1,3-dihydroindol-2-one | 329 mg, 81% | BrC=1C=C(C=C2C(NC3=CC=C(C=C23)Cl)=O)C=C(C1O)C(C)(C)C | C19H17BrClNO2
